US05057534
3-(Dimethylamino)-5-(4-methylphenyl)-1H-pyrazole-4-acetamide
A mixture of 4.5 g (0.015 mole) of 3-(dimethylamino)-5-(4-methylphenyl)pyrazole-4-acetic acid monohydrochloride and 4 ml (0.03 mole) of triethylamine in 75 ml of methylene chloride was stirred under nitrogen until all the solids dissolved, then cooled to -30° C. in a dry ice/acetone batch and treated with 1.7 g (0.0152 mole) of ethyl chloroformate added dropwise through a septum with a syringe and needle. The reaction mixture was cooled to 0° C. with an ice-brine bath and ammonia (5 ml in 10 ml of methylene chloride) was added. The reaction was stirred for 16 hours as it warmed to ambient temperature.

reactant | 3-(dimethylamino)-5-(4-methylphenyl)pyrazole-4-acetic acid monohydrochloride | 0.015 mole, 4.5 g | Cl.CN(C1=NNC(=C1CC(=O)O)C1=CC=C(C=C1)C)C
reactant | triethylamine | 0.03 mole, 4 ml | C(C)N(CC)CC | C6H15N
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | ethyl chloroformate | 0.0152 mole, 1.7 g | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | 5 ml | N | H3N
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 3-(Dimethylamino)-5-(4-methylphenyl)-1H-pyrazole-4-acetamide | CN(C1=NNC(=C1CC(=O)N)C1=CC=C(C=C1)C)C | C14H18N4O
